US06410556B1
3-Chloro-benzo[d]isothiazole-1,1-dioxide (160 mg, 0.79 mmol) and diisopropylethylamine (150 μl, 0.86 mmol) were dissolved in dichloromethane (7 ml) at 0° C. 2-Amino-7-aminomethyl-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester (284 mg, 0.70 mmol) was added and the mixture was stirred for 15 minutes at 0° C., diluted with dichloromethane (10 ml) and washed with water (20 ml) and brine (20 ml). The organic phase was dried (MgSO4), filtered, and the solvent evaporated in vacuo. The residue was purified by silica gel chromatography using a gradient of hexanes/ethyl acetate (1:1) to pure ethyl acetate as eluent, which afforded 309 mg (77%) of 2-amino-7-((1,1-dioxo-1H-benzo[d]isothiazol-3-ylamino)methyl)-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester as an foam.

reactant | 3-Chloro-benzo[d]isothiazole-1,1-dioxide | 0.79 mmol, 160 mg | ClC1=NS(C2=C1C=CC=C2)(=O)=O | C7H4ClNO2S
reactant | diisopropylethylamine | 0.86 mmol, 150 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-Amino-7-aminomethyl-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 0.70 mmol, 284 mg | C(C)(C)(C)OC(=O)C1=C(SC=2C(N(CCC21)CC2=CC=C(C=C2)OC)CN)N | C21H29N3O3S
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-amino-7-((1,1-dioxo-1H-benzo[d]isothiazol-3-ylamino)methyl)-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 309 mg, 77% | C(C)(C)(C)OC(=O)C1=C(SC=2C(N(CCC21)CC2=CC=C(C=C2)OC)CNC2=NS(C1=C2C=CC=C1)(=O)=O)N | C28H32N4O5S2
